US07265120B2
In the presence of copper(I) iodide (5 mg) and dichlorobis(triphenylphosphine)palladium(II) (18 mg), triethylamine (0.0794 ml) was dropwise added to a mixture of 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (200 mg) and ethynylbenzene (0.0626 ml) in 1,2-dichloroethane (2 ml) at 60° C. The mixture was refluxed for 2 hours. The mixture was cooled to give a precipitate. The precipitate was collected by filtration and suspended in MeOH to give 6-[5-amino-3-phenyl-6-(phenylethynyl)-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone (104 mg).

reactant | triethylamine | 0.0794 ml | C(C)N(CC)CC | C6H15N
reactant | 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 200 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16BrN5O
reactant | ethynylbenzene | 0.0626 ml | C(#C)C1=CC=CC=C1 | C8H6
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
catalyst | copper(I) iodide | 5 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 18 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-[5-amino-3-phenyl-6-(phenylethynyl)-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 104 mg | NC=1N=C(C(=NC1C#CC1=CC=CC=C1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C25H21N5O
